US05117057
An aqueous solution of sodium hydroxide (1.24 g of 50% NaOH diluted with 5 ml of water) was added to a solution of N'-t-butyl-N-(2-pyridinecarbonyl)hydrazine (1.0 g, 0.00518 mol) in 20 ml of toluene at 23° C. The mixture was cooled and treated with 2-bromobenzoyl chloride (1.137 g, 0.00518 mol). The mixture was then stirred at 23° C. overnight. The solids were removed by filtration, washed with water and dried to afford 0.96 g of N'-t-butyl-N-(2-pyridinecarbonyl)-N'-(2-bromobenzoyl)hydrazine as a white solid. m.p. 179°-180° C.

reactant | sodium hydroxide | 5 ml, 1.24 g | [OH-].[Na+]
reactant | N'-t-butyl-N-(2-pyridinecarbonyl)hydrazine | 0.00518 mol, 1.0 g | C(C)(C)(C)NNC(=O)C1=NC=CC=C1 | C10H15N3O
reactant | 2-bromobenzoyl chloride | 0.00518 mol, 1.137 g | BrC1=C(C(=O)Cl)C=CC=C1 | C7H4BrClO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N'-t-butyl-N-(2-pyridinecarbonyl)-N'-(2-bromobenzoyl)hydrazine | 0.96 g | C(C)(C)(C)N(NC(=O)C1=NC=CC=C1)C(C1=C(C=CC=C1)Br)=O | C17H18BrN3O2
